US07399759B2
2-[6-(Isopropylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
2-[6-(Isopropylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one (0.09 g, 0.29 mmol) was dissolved in chloroform (50 ml). A solution of 3-chloroperbenzoic acid (ca. 77%, 0.064 g, 0.29 mmol) in chloroform (10 ml) was added dropwise to the mixture, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated and the residue was recrystallized from ethanol to give the titled compound (0.056 g, 59%) as pale yellow crystals.

reactant | 2-[6-(Isopropylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.29 mmol, 0.09 g | C(C)(C)SC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2OS2
reactant | 3-chloroperbenzoic acid | 0.29 mmol, 0.064 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[6-(Isopropylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.056 g, 59% | C(C)(C)S(=O)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H14N2O2S2
